US05466692
2-Hydroxymethyl-4-methyl-8-[2'-(1H-tetrazol-5-yl)biphenyl-4-ylmethyl]- 5,8dihydro-6H-pyrido[2,3-d]pyrimidin-7-one
A mixture of 2-hydroxymethyl-4-methyl-8-[2'-(1-tert-butyl-1H-tetrazol-5-yl)biphenyl-4-ylmethyl]-5,8-dihydro-6H-pyrido[2,3-d]pyrimidin-7-one (1.2 g, 2.50 mmol), methanesulfonic acid (2.40 g, 25.0 mmol), and toluene (14 mL) was heated under reflux for 20 h. The mixture was concentrated, taken up in water, and the pH was adjusted to 7-8 with 1 N NaOH. The aqueous mixture was extracted with EtOAc (discarded), acidified to pH 4 with 1N HCl, and extracted with CHCl3. The CHCl3 layers were dried (MgSO4) and concentrated to give 1.10 g of a foam. Trituration with EtOAc/acetone and recrystallization from EtOH gave 0.45 g (46%) of product as a white solid, mp 218°-220° C.

reactant | 2-hydroxymethyl-4-methyl-8-[2'-(1-tert-butyl-1H-tetrazol-5-yl)biphenyl-4-ylmethyl]-5,8-dihydro-6H-pyrido[2,3-d]pyrimidin-7-one | 2.50 mmol, 1.2 g | OCC=1N=C(C2=C(N1)N(C(CC2)=O)CC2=CC=C(C=C2)C2=C(C=CC=C2)C2=NN=NN2C(C)(C)C)C | C27H29N7O2
reactant | methanesulfonic acid | 25.0 mmol, 2.40 g | CS(=O)(=O)O | CH4O3S
solvent | toluene | 14 mL | C1(=CC=CC=C1)C | C7H8
product | 2-Hydroxymethyl-4-methyl-8-[2'-(1H-tetrazol-5-yl)biphenyl-4-ylmethyl]- 5,8dihydro-6H-pyrido[2,3-d]pyrimidin-7-one | 1.10 g | OCC=1N=C(C2=C(N1)N(C(CC2)=O)CC2=CC=C(C=C2)C2=C(C=CC=C2)C2=NN=NN2)C | C23H21N7O2
